US07435823B2
Step (b) Preparation of 4-chloro-6-methoxy-7-(3-(piperidin-1-yl)propoxy)quinoline
To a solution of 4-chloro-7-(3-chloropropoxy)-6-methoxyquinoline (3.1 g, 0.0108 mole) NaI (2.4 g, 0.0162 mole), and potassium carbonate (7.5 g, 0.054 mole in DMF (100 mL), was added piperidine (6.4 mL, 0.065 mole). The mixture was heated to 70° C. for 16 h. The mixture was concentrated in vacuo then diluted with H2O (100 mL). The mixture was extracted with EtOAc (3×50 mL) and the organic extracts were washed with H2O and brine. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (7.5% MeOH/CH2Cl2) to yield the title compounds as a light yellow solid. MS (ESI, pos. ion) m/z: 335 (M+1). Mass Calc'd for C18H23ClN2O2: 334.1.

reactant | 4-chloro-7-(3-chloropropoxy)-6-methoxyquinoline | 0.0108 mole, 3.1 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCCl | C13H13Cl2NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 0.065 mole, 6.4 mL | N1CCCCC1 | C5H11N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(3-(piperidin-1-yl)propoxy)quinoline | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C18H23ClN2O2
